data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2023,2246,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([Br:7])[Br:8].[CH3:9][O:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([Br:7])([Br:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[NH:14][CH:15]1[C:16]#[N:17],water,298.15,29.41897285486248,-8.883636178196355
2471,2739,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2.[CH3:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[N:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:19][C:18]2([C:16]([CH3:15])=[O:17])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,38.882885658955104,-0.6293880202196865
3987,4562,[N:9]#[C:10][c-:11]1[nH+:12][c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21]1=[O:22].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:11]2([C:10]#[N:9])[NH:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:20][C:21]2=[O:22],water,298.15,25.69445823270523,1.7003506625200306
4554,5194,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[CH:11]2,water,298.15,15.079897954026006,-21.16644769041137
4461,5093,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19](=[O:20])[NH:21][CH3:22])[o+:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:18]2([C:19](=[O:20])[NH:21][CH3:22])[C:16](=[O:17])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:23]2,water,298.15,10.820757756299434,-20.6537527840048
330,359,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[C:17](=[O:18])[NH:19][CH3:20].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:15]#[N:16])([C:17](=[O:18])[NH:19][CH3:20])[N:12]([CH3:13])[CH2:11]2,water,298.15,19.7675948671962,-26.73907882871827
3483,3967,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([CH3:16])([C:17]#[N:18])[O:14][C:12]2([CH3:11])[CH3:13],water,298.15,17.132824701104752,-36.58311107360954
361,392,[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][NH-:17].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[NH:17][N:16]=[C:15]3[C:13]([NH:12][CH3:11])=[O:14],water,298.15,13.268515278154956,-61.87475289503846
741,803,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][O-:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[O:20][NH:19][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[C:21]([CH3:22])=[O:23],water,298.15,22.53019015224292,-7.717018139583327
3426,3896,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]2([C:14]#[N:15])[NH:12][C:11]1([CH3:10])[C:17](=[O:18])[O:16]2,water,298.15,22.66255654947156,-4.132252510654126
84,95,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][C:7]([C:8]#[N:9])=[NH+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[C:7]([CH3:6])([C:8]#[N:9])[NH:10][N:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,22.242325165222283,-59.84648954118772
924,1002,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH2:11][N:12]([CH3:13])[C:14]3([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,17.871287725894465,-43.06574850063574
903,976,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[N:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:20](=[O:21])[NH:22][CH3:23])[N:18]=[N:19]2,water,298.15,27.6613049469748,-7.142413882233868
